US08372807B2
A mixture of ethyl 2-methyl-2-(1-(naphthalen-1-yl)-1H-pyrazol-5-yloxy)propanoate (80 mg, 0.25 mmol), aqueous sodium hydroxide solution (10%, 5 mL) and methanol (5 mL) was stirred at reflux for 2 hours. The reaction was then cooled to room temperature and the methanol removed. Water was added, neutralized with 1N HCl and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated. Purification by preparative thin layer chromatography (95% dichloromethane/5% methanol) afforded 2-Methyl-2-(1-(naphthalen-1-yl)-1H-pyrazol-5-yloxy)propanoic acid as a solid. 1H NMR (DMSO-d6, 400 MHz): δ 13.4 (s, 1H), 8.09 (m, 2H), 7.65 (m, 6H), 5.78 (d, 1H), 1.37 (s, 6H).

reactant | ethyl 2-methyl-2-(1-(naphthalen-1-yl)-1H-pyrazol-5-yloxy)propanoate | 0.25 mmol, 80 mg | CC(C(=O)OCC)(C)OC1=CC=NN1C1=CC=CC2=CC=CC=C12 | C19H20N2O3
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 2-Methyl-2-(1-(naphthalen-1-yl)-1H-pyrazol-5-yloxy)propanoic acid | CC(C(=O)O)(C)OC1=CC=NN1C1=CC=CC2=CC=CC=C12 | C17H16N2O3
